US07790709B2
Preparation of (E)-3-[4-(4-Methoxy-benzyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide hydrochloride
According to the procedure of Example 1, except substituting methyl-(1-methyl-1H-indol-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-[4-(4-methoxy-benzyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.20 g, 83%) was prepared as a tan powder: 1H NMR (300 MHz, DMSO-d6) δ 12.07 (br s, 1H), 11.23-11.21 (m, 1H), 8.78 (s, 1H), 8.27-8.20 (m, 1H), 7.64-6.99 (m, 10H), 6.42-6.18 (m, 1H), 5.06-4.86 (m, 2H), 4.32-4.20 (m, 4H), 3.77-3.68 (m, 8H), 3.12-3.00 (m, 3H); MS (ESI) m/e 510 (M+H)+.

reactant | methyl-(1-methyl-1H-indol-2-ylmethyl)amine | CNCC=1N(C2=CC=CC=C2C1)C | C11H14N2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-[4-(4-methoxy-benzyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]acrylic acid hydrochloride | Cl.COC1=CC=C(CN2CC(NC3=C(C2)C=C(C=N3)/C=C/C(=O)O)=O)C=C1
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-3-[4-(4-Methoxy-benzyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide hydrochloride | 0.20 g, 83% | Cl.COC1=CC=C(CN2CC(NC3=C(C2)C=C(C=N3)/C=C/C(=O)N(CC=3N(C2=CC=CC=C2C3)C)C)=O)C=C1 | InChI=1S/C30H31N5O3.ClH/c1-33(19-25-15-23-6-4-5-7-27(23)34(25)2)29(37)13-10-22-14-24-18-35(20-28(36)32-30(24)31-16-22)17-21-8-11-26(38-3)12-9-21;/h4-16H,17-20H2,1-3H3,(H,31,32,36);1H/b13-10+;
